US08426447B2
A vial charged with pyridin-3-ylboronic acid (0.295 g, 2.401 mmol), palladiumtetrakis (0.126 g, 0.109 mmol), potassium carbonate (1.509 g, 10.92 mmol), and (S)-3-bromo-7-iodo-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine (1.000 g, 2.183 mmol) was treated with 11 mL dioxane followed by 4.5 mL water. The vial was flushed with argon and was heated to 80° C. for 4 hours. The reaction mixture was diluted with EtOAc and dried over MgSO4. The organics were then concentrated, and the crude residue was purified by column chromatography yielding (S)-3-bromo-7-(pyridin-3-yl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine.

reactant | pyridin-3-ylboronic acid | 2.401 mmol, 0.295 g | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | potassium carbonate | 10.92 mmol, 1.509 g | C([O-])([O-])=O.[K+].[K+]
reactant | (S)-3-bromo-7-iodo-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine | 2.183 mmol, 1.000 g | BrC=1C=C2C(=NC1)OC1=CC=C(C=C1[C@]21N=C(OC1)N)I | C14H9BrIN3O2
reactant | dioxane | 11 mL | O1CCOCC1 | C4H8O2
catalyst | palladiumtetrakis | 0.109 mmol, 0.126 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 4.5 mL | O | H2O
product | (S)-3-bromo-7-(pyridin-3-yl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine | BrC=1C=C2C(=NC1)OC1=CC=C(C=C1[C@]21N=C(OC1)N)C=1C=NC=CC1 | C19H13BrN4O2
